US06077812
Step B 1-methyl-6-trifluoromethyl-3-(6-amino-4-bromo-2-fluoro-5-hydroxyphenyl)-2,4(1H,3H)-pyrimidinedione
A stirred solution of 16.0 grams (0.037 mole) of 1-methyl-6-trifluoromethyl-3-(4-bromo-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione and 10 mL of water in 120 mL of glacial acetic acid was heated to 50° C., and 16.0 grams (excess) of iron dust was slowly added. The reaction mixture was then cooled to ambient temperature where it stirred for one hour. The reaction mixture was filtered through diatomaceous earth, and the filtrate was partitioned in a mixture of 150 mL portions each of water and ethyl acetate. The organic layer was separated, dried with magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified by column chromatography on silica gel, yielding 12.0 grams of title compound; mp 98-100° C.

reactant | 1-methyl-6-trifluoromethyl-3-(4-bromo-2-fluoro-5-hydroxy-6-nitrophenyl)-2,4(1H,3H)-pyrimidinedione | 0.037 mole, 16.0 grams | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1[N+](=O)[O-])O)Br)F)=O | C12H6BrF4N3O5
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 16.0 grams | [Fe] | Fe
product | 1-methyl-6-trifluoromethyl-3-(6-amino-4-bromo-2-fluoro-5-hydroxyphenyl)-2,4(1H,3H)-pyrimidinedione | 12.0 grams | CN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1N)O)Br)F)=O | C12H8BrF4N3O3
